* source AMPLIFICADOR_PTC
X_U1A         N00397 N00366 VCC 0 VOUT LTC1047/LT
R_R1         N00456 N00366  10k TC=0,0 
R_R2         N00397 VCC  195.23k TC=0,0 
R_R3         0 N00397  200k TC=0,0 
R_R4         VOUT N00366  120k TC=0,0 
V_V2         VCC 0 3.3
X_U1B         N00451 N00456 VCC 0 N00456 LTC1047/LT
X_U2         N00451 VCC TFPT1206L1002 PARAMS: TOL25=0 TOLSLOPE=0
R_R5         0 N00451  10k TC=0,0 
