* source TEST
V_V1         N14486 0  AC 0
+SIN 0 3.3 915e6 0 0 0
R_R2         N15853 N14520  19 TC=0,0 
C_C1         0 N14579  34.8p  TC=0,0 
C_C2         0 N14520  52.2p  TC=0,0 
L_L1         N14579 N14520  1.40n  
C_C3         0 N15853  36.4p  TC=0,0 
I_I1         N14486 0 DC 0Adc AC 0Aac
+SIN 0 15.5m 915e6 0 0 0
R_R3         N14486 N14579  1n TC=0,0 
